US04259336
2,7-Dimethyl-4-hydroxy-N-(pyrazinyl)-2H-[1] benzothieno-[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from methyl 2,7-dimethyl-4-hydroxy-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and amino-pyrazine with a yield of 39% of theory.

reactant | methyl 2,7-dimethyl-4-hydroxy-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | CN1S(C2=C(C(=C1C(=O)OC)O)SC1=C2C=CC(=C1)C)(=O)=O | C14H13NO5S2
reactant | amino-pyrazine | NC1=NC=CN=C1 | C4H5N3
product | 2,7-Dimethyl-4-hydroxy-N-(pyrazinyl)-2H-[1] benzothieno-[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 39% | CN1S(C2=C(C(=C1C(=O)NC1=NC=CN=C1)O)SC1=C2C=CC(=C1)C)(=O)=O | C17H14N4O4S2
